US04273855
2-methyl-2-[4-(β-hydroxyethoxy)-phenylazo]-acetylacetic acid ethyl ester
65.4 g of 4-(β-hydroxyethoxy)-aniline, mixed with 70 ml of strong hydrochloric acid and 78 g of ice, are diazotized with stirring at 0° C. with a solution of 22.1 g of sodium nitrite in 50 ml of water. The reaction mixture is stirred for 1 h, whereupon 33 g of sodium acetate are added. The obtained diazonium solution is then added to a mixture made of a solution of 47.5 g of α-methylacetylacetic acid ethyl ester in 300 ml of methanol, 300 g of ice and a solution of 21.8 g of potassium hydroxide in 30 ml of water. The whole is stirred at about 5° C. for 4 h and extracted with toluene. The extract is washed with water, dried and evaporated in a rotary evaporator. The residual 65 g of oil are directly further transformed without purification.

reactant | 4-(β-hydroxyethoxy)-aniline | 65.4 g | OCCOC1=CC=C(N)C=C1 | C8H11NO2
reactant | hydrochloric acid | 70 ml | Cl | ClH
reactant | sodium nitrite | 22.1 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 33 g | C(C)(=O)[O-].[Na+]
reactant | α-methylacetylacetic acid ethyl ester | 47.5 g | C(C)OC(CC(CC)=O)=O | C7H12O3
reactant | potassium hydroxide | 21.8 g | [OH-].[K+]
solvent | water | 50 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 2-methyl-2-[4-(β-hydroxyethoxy)-phenylazo]-acetylacetic acid ethyl ester | C(C)OC(CC(C(N=NC1=CC=C(C=C1)OCCO)C)=O)=O | C15H20N2O5
